US03980795
25.2 g of 3-(4-biphenylyl)-3-methyl-pyrazolidin-5-one are dissolved in 200 ml of acetic acid, a solution of 7.1 g of chlorine in 200 ml of acetic acid is added dropwise while stirring, and the mixture is stirred for a further hour and evaporated. Working up in the usual manner gives 3-(4'-chloro-4-biphenylyl)-3-methyl-pyrazolidin-5-one, m.p. 214°-215°.

reactant | 3-(4-biphenylyl)-3-methyl-pyrazolidin-5-one | 25.2 g | C1(=CC=C(C=C1)C1(NNC(C1)=O)C)C1=CC=CC=C1 | C16H16N2O
reactant | chlorine | 7.1 g | ClCl | Cl2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 3-(4'-chloro-4-biphenylyl)-3-methyl-pyrazolidin-5-one | ClC1=CC=C(C=C1)C1=CC=C(C=C1)C1(NNC(C1)=O)C | C16H15ClN2O
